US08048878B2
Synthesis of (4R,9aS)-4-(4-chlorophenyl)hexahydropyrido[2,1-c][1,4]oxazin-6-one
Grubbs catalyst 2nd generation (21.3 mg) was added to a solution of methyl 3-[(3S,5R)-4-but-3-enoyl-5-(4-chlorophenyl)morpholin-3-yl]-(E)-acrylate and methyl 3-[(3S,5R)-4-but-3-enoyl-5-(4-chlorophenyl)morpholin-3-yl]-(Z)-acrylate (87.9 mg) in dichloromethane (10 mL), and the reaction solution was heated under reflux in a nitrogen atmosphere for 1.5 hours. The reaction solution was returned to room temperature. Triethylamine (500 μL) was added to the reaction solution, which was then stirred for 10 minutes. The reaction solution was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (heptane-ethyl acetate system) to obtain a crude product. Platinum oxide (6.02 mg) was added to a solution of the crude product in methanol (3 mL), and the reaction solution was stirred in a hydrogen atmosphere at room temperature for one hour. The reaction solution was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent solvent: heptane-ethyl acetate system) to obtain 48.7 mg of the title compound. The property values of the compound are as follows.

reactant | methyl 3-[(3S,5R)-4-but-3-enoyl-5-(4-chlorophenyl)morpholin-3-yl]-(E)-acrylate | C(CC=C)(=O)N1[C@H](COC[C@H]1C1=CC=C(C=C1)Cl)/C=C/C(=O)OC | C18H20ClNO4
reactant | methyl 3-[(3S,5R)-4-but-3-enoyl-5-(4-chlorophenyl)morpholin-3-yl]-(Z)-acrylate | 87.9 mg | C(CC=C)(=O)N1[C@H](COC[C@H]1C1=CC=C(C=C1)Cl)\C=C/C(=O)OC | C18H20ClNO4
reactant | Triethylamine | 500 μL | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
catalyst | Grubbs catalyst 2nd generation | 21.3 mg | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | methanol | 3 mL | CO | CH4O
catalyst | Platinum oxide | 6.02 mg | [Pt]=O
product | (4R,9aS)-4-(4-chlorophenyl)hexahydropyrido[2,1-c][1,4]oxazin-6-one | 48.7 mg | ClC1=CC=C(C=C1)[C@H]1N2[C@H](COC1)CCCC2=O | C14H16ClNO2
